US08859814B2
tert-Butyl{1-[(4-methylpiperidin-1-yl)carbonyl]-3-pyridin-2-ylpropyl}carbamate is prepared from pyridin-2-yl propionaldehyde (Kitbunnadaj, R. et al. J. Med. Chem, 2004, 47, 2414-2417) in the same manner that tert-butyl{3-(2-chlorophenyl)-1-[(4-methylpiperidin-1-yl)carbonyl]propyl}carbamate is prepared from 3-(2-chlorophenyl)propenal in Example 5.

reactant | pyridin-2-yl propionaldehyde | N1=C(C=CC=C1)C(C=O)C | C8H9NO
reactant | tert-butyl{3-(2-chlorophenyl)-1-[(4-methylpiperidin-1-yl)carbonyl]propyl}carbamate | C(C)(C)(C)OC(NC(CCC1=C(C=CC=C1)Cl)C(=O)N1CCC(CC1)C)=O | C21H31ClN2O3
reactant | 3-(2-chlorophenyl)propenal | ClC1=C(C=CC=C1)C=CC=O | C9H7ClO
product | tert-Butyl{1-[(4-methylpiperidin-1-yl)carbonyl]-3-pyridin-2-ylpropyl}carbamate | C(C)(C)(C)OC(NC(CCC1=NC=CC=C1)C(=O)N1CCC(CC1)C)=O | C20H31N3O3
